US05541229
a) 2-Pentanoylamino-5-methoxy-nitrobenzene
4.2 g (0.025 mol) of 2-nitro-4-methoxy-aniline are dissolved in 30 ml of pyridine, cooled to 0° C. and treated with 3.3 g (0.0275 mol) of valeryl chloride with stirring. After stirring for 1 hour at ambient temperature, the mixture is poured into iced water, the crystals are filtered off under suction and dried.

reactant | 2-nitro-4-methoxy-aniline | 0.025 mol, 4.2 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)OC | C7H8N2O3
reactant | valeryl chloride | 0.0275 mol, 3.3 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | water | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-Pentanoylamino-5-methoxy-nitrobenzene | C(CCCC)(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C12H16N2O4
